US04309435
A mixture of 2-guanidino-4-[(2-aminoethyl)-thiomethyl]thiazole dihydrochloride (0.024 g), 1-[4-(2-guanidinothiazol-4-yl)butylamino]-2-methoxycyclobutene-3,4-dione (0.032 g) and triethylamine (0.03 ml) in dry methanol (1 ml) was stirred for 18 hours at room temperature. The white solid was filtered off, washed with methanol and dried in vacuo to give 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-[4-(2-guanidinothiazol-4-yl)butylamino]cyclobuten-3,4-dione, (0.022 g), m.p. 208°-210°.

reactant | 2-guanidino-4-[(2-aminoethyl)-thiomethyl]thiazole dihydrochloride | 0.024 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | 1-[4-(2-guanidinothiazol-4-yl)butylamino]-2-methoxycyclobutene-3,4-dione | 0.032 g | N(C(=N)N)C=1SC=C(N1)CCCCNC1=C(C(C1=O)=O)OC | C13H17N5O3S
reactant | triethylamine | 0.03 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 ml | CO | CH4O
product | 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-[4-(2-guanidinothiazol-4-yl)butylamino]cyclobuten-3,4-dione | 0.022 g | N(C(=N)N)C=1SC=C(N1)CSCCNC1=C(C(C1=O)=O)NCCCCC=1N=C(SC1)NC(=N)N | C19H26N10O2S3
